US06518279B2
methyl 4-(3-bromo-4-fluorophenyl)-2-methyl-5-oxo-4,5,6,7-tetrahydro-1H-cyclopenta[b]pyridine-3-carboxylate
3-Bromo-4-fluorobenzaldehyde (3.045 g, 15 mmol), methyl acetoacetate (2.09 g, 18 mmol) and 3-aminocyclopent-2-enone (1.45 g, 15 mmol) were heated to 65° C. in methyl alcohol for 5 days. The reaction was allowed to cool to ambient temperature and the white precipitate collected, washed with methyl alcohol and dried to provide 2.29 g of the title compound. Flash chromatography (5% methyl alcohol/methylene chloride) of the filtrate provided an additional 1.46 g of the title compound.

reactant | 3-Bromo-4-fluorobenzaldehyde | 15 mmol, 3.045 g | BrC=1C=C(C=O)C=CC1F | C7H4BrFO
reactant | methyl acetoacetate | 18 mmol, 2.09 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | 3-aminocyclopent-2-enone | 15 mmol, 1.45 g | NC1=CC(CC1)=O | C5H7NO
solvent | methyl alcohol | CO | CH4O
product | methyl 4-(3-bromo-4-fluorophenyl)-2-methyl-5-oxo-4,5,6,7-tetrahydro-1H-cyclopenta[b]pyridine-3-carboxylate | 2.29 g | BrC=1C=C(C=CC1F)C1C2=C(NC(=C1C(=O)OC)C)CCC2=O | C17H15BrFNO3
